US07566739B2
5b) 2-(1-CHLORO-2,2,2-TRIFLUORO-1-METHYLETHYL)-1,3-DIFLUORO-5-METHOXYBENZENE
A thionyl chloride (25 ml) solution of 2-(2,6-difluoro-4-methoxyphenyl)-1,1,1-trifluoropropan-2-ol (8.7 g, 34.1 mmol) and pyridine (26 mg, 0.34 mmol) was stirred at 70° C. for 3 hours. Then, the reaction was concentrated in vacuo and diluted with water. The product was extracted with hexane and the organic layer was dried over sodium sulfate, filtered and concentrated to furnish 8.84 g (94% yield) of the title compound as a colorless oil.

reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2,6-difluoro-4-methoxyphenyl)-1,1,1-trifluoropropan-2-ol | 34.1 mmol, 8.7 g | FC1=C(C(=CC(=C1)OC)F)C(C(F)(F)F)(C)O | C10H9F5O2
reactant | pyridine | 0.34 mmol, 26 mg | N1=CC=CC=C1 | C5H5N
product | 2-(1-CHLORO-2,2,2-TRIFLUORO-1-METHYLETHYL)-1,3-DIFLUORO-5-METHOXYBENZENE | 8.84 g, 94% yield | ClC(C(F)(F)F)(C)C1=C(C=C(C=C1F)OC)F | C10H8ClF5O
